US04921855
To a solution of benzyl 2(S)-[N-methyl-N-(2-phenacyloxycarbonylethyl)aminocarbonyloxy]-3-phenylpropionate (1.0 g) in acetic acid (10 ml) was added zinc dust (1.0 g) portionwise at ambient temperature. After being stirred for 2 hours, zinc dust (0.2 g) was added thereto. The reaction mixture was stirred overnight at the same temperature and filtered, and the filtrate was evaporated in vacuo. The residue was dissolved in ethyl acetate (30 ml) and 0.5N hydrochloric acid (30 ml). The organic layer was extracted with 1N sodium hydroxide solution (20 ml×3). The combined aqueous extract was acidified to pH 2 with 1N hydrochloric acid and extracted with chloroform (50 ml ×3). The extract was washed with brine and dried over magnesium sulfate. Evaporation of the solvent gave benzyl 2(S)-[N-methyl-N-(2-carboxyethyl)aminocarbonyloxy]-3-phenylpropionate (543 mg) as an oil.

reactant | benzyl 2(S)-[N-methyl-N-(2-phenacyloxycarbonylethyl)aminocarbonyloxy]-3-phenylpropionate | 1.0 g | CN(CCC(=O)OCC(=O)C1=CC=CC=C1)C(=O)O[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C29H29NO7
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 1.0 g | [Zn] | Zn
catalyst | zinc | 0.2 g | [Zn] | Zn
product | benzyl 2(S)-[N-methyl-N-(2-carboxyethyl)aminocarbonyloxy]-3-phenylpropionate | 543 mg | CN(CCC(=O)O)C(=O)O[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C21H23NO6
